US07932272B2
(4-tert-Butyl-benzyl)-quinazolin-4-yl-amine
To a solution of 4-chloro-quinazoline described in Preparation Example X-1 (8 mg, 0.049 mmol) in 1-methyl-2-pyrrolidone (0.5 mL) were added 4-tert-butyl-benzylamine (10 μl, 0.059 mmol) and N,N-diisopropylethylamine (17 μl, 0.098 mmol), and the solution was stirred for 5 hours at 160° C. The reaction mixture was directly purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and the title compound (16.5 mg, 0.041 mmol, 72%) was obtained as a trifluoroacetic acid salt.

reactant | 4-chloro-quinazoline | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | 4-tert-butyl-benzylamine | 0.059 mmol, 10 μl | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | N,N-diisopropylethylamine | 0.098 mmol, 17 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1-methyl-2-pyrrolidone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
product | (4-tert-Butyl-benzyl)-quinazolin-4-yl-amine | 0.041 mmol, 16.5 mg, 72% | C(C)(C)(C)C1=CC=C(CNC2=NC=NC3=CC=CC=C23)C=C1 | C19H21N3
